US06476045B2
Methyl 5-Chloro-2-(4-chlorophenyl)-1H-pyrrolo[3,2-b]pyridine-3-propanoate
Prepared from 6-chloro-2-iodo-3-pyridinamine (Description 14) and methyl 5-(4-chlorophenyl)-4-pentynoate (Description 2) according to the method of Description 4. 1H NMR (500 MHz, CDCl3) δ 8.20 (1H, br s), 7.56 (1H, d, J 8.4 Hz), 7.52 (2H, d, J 8.5 Hz), 7.47 (2H, d, J 8.5 Hz), 7.11 (1H, d, J 8.4 Hz), 3.61 (3H, s), 3.21 (2H, t, J 7.8 Hz), and 2.85 (2H, t, J 7.8 Hz).

reactant | 6-chloro-2-iodo-3-pyridinamine | ClC1=CC=C(C(=N1)I)N | C5H4ClIN2
reactant | methyl 5-(4-chlorophenyl)-4-pentynoate | ClC1=CC=C(C=C1)C#CCCC(=O)OC | C12H11ClO2
product | Methyl 5-Chloro-2-(4-chlorophenyl)-1H-pyrrolo[3,2-b]pyridine-3-propanoate | ClC1=CC=C2C(=N1)C(=C(N2)C2=CC=C(C=C2)Cl)CCC(=O)OC | C17H14Cl2N2O2
